datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC(O)C[N+:21](CC)(CC(O)CC)[H:20].Cc1ccc(N)[n:10]c1>>CCC(O)C[N:21](CC)CC(O)CC.Cc1ccc(N)[n+:10]([H:20])c1 10=20;20,21=21",
"CN1C=CC(=[O:10])c2ccccc21.Nc1[nH][n+:21]([H:20])c(N)c1/N=N/c1ccccc1>>CN1C=CC(=[O+:10][H:20])c2ccccc21.Nc1[nH][n:21]c(N)c1/N=N/c1ccccc1 10=20;20,21=21",
"CCC(C)(C)[NH:10]C(C)(C)CC.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCC(C)(C)[NH+:10](C(C)(C)CC)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(CC[NH2:10])c1ccccc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(CC[NH2+:10][H:20])c1ccccc1 10=20;20,21=21",
"NC(=S)[N:21](c1ccc([N+](=O)[O-])cc1)[H:20].Nc1nccc2c1[n:10]cn2CCOCP(=O)([O-])[O-]>>NC(=S)[N-:21]c1ccc([N+](=O)[O-])cc1.Nc1nccc2c1[n+:10]([H:20])cn2CCOCP(=O)([O-])[O-] 10=20;20,21=21",
"CC(C)(C)C(=O)NC(C(Cl)(Cl)Cl)[O:21][H:20].CCN(CC)C(=O)C[NH:10]CC>>CC(C)(C)C(=O)NC(C(Cl)(Cl)Cl)[O-:21].CCN(CC)C(=O)C[NH+:10](CC)[H:20] 10=20;20,21=21",
"CC[S+:21](C(O)O)[H:20].Cc1nnc(NS(=O)(=O)c2ccc([NH2:10])cc2)s1>>CC[S:21]C(O)O.Cc1nnc(NS(=O)(=O)c2ccc([NH2+:10][H:20])cc2)s1 10=20;20,21=21",
"CSc1nc(N)[n+:21]([H:20])[nH]1.C[N:10]1CC[C@]23c4c5ccc(O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5>>CSc1nc(N)[n:21][nH]1.C[N+:10]1([H:20])CC[C@]23c4c5ccc(O)c4O[C@H]2[C@@H](O)C=C[C@H]3[C@H]1C5 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nnc1NCC[N+:21]1([H:20])CCOCC1.O=C([O-])CCC(C(=O)[O-])[NH2:10]>>Cc1cc(-c2ccccc2)nnc1NCC[N:21]1CCOCC1.O=C([O-])CCC(C(=O)[O-])[NH2+:10][H:20] 10=20;20,21=21",
"Brc1ccc[n:10]c1.Cc1o[n+:21]([H:20])c(C)c1C>>Brc1ccc[n+:10]([H:20])c1.Cc1o[n:21]c(C)c1C 10=20;20,21=21",
"CN(C(=O)c1ccccc1)c1cc[n:10]cc1.O=C(CNS(=O)(=O)c1ccccc1)NCC(=O)[O:21][H:20]>>CN(C(=O)c1ccccc1)c1cc[n+:10]([H:20])cc1.O=C(CNS(=O)(=O)c1ccccc1)NCC(=O)[O-:21] 10=20;20,21=21",
"CN(C)c1cccc([N:21](C=S)[H:20])c1.c1ccc(NC2=[N:10]CCCO2)cc1>>CN(C)c1cccc([N-:21]C=S)c1.c1ccc(NC2=[N+:10]([H:20])CCCO2)cc1 10=20;20,21=21",
"CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1.O=[N+]([O-])c1ccc([N-:10]C=S)cc1>>CCS(=O)(=O)c1cc(OC)c(OC)c(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1.O=[N+]([O-])c1ccc([N:10](C=S)[H:20])cc1 10=20;20,21=21",
"C=CCc1ccc([O-:10])c(OC)c1.C[N+]1(CCCCCC(=O)[O:21][H:20])CCCCC1>>C=CCc1ccc([O:10][H:20])c(OC)c1.C[N+]1(CCCCCC(=O)[O-:21])CCCCC1 10=20;20,21=21",
"CCNc1cc[nH+]c([S:21][H:20])n1.Cc1cc([N+](=O)[O-])cc2c1nnn2[O-:10]>>CCNc1cc[nH+]c([S-:21])n1.Cc1cc([N+](=O)[O-])cc2c1nnn2[O:10][H:20] 10=20;20,21=21",
"C[N:10](C)O.O=C1c2cccc([N+](=O)[O-])c2C(=O)[N:21]1[H:20]>>C[N+:10](C)(O)[H:20].O=C1c2cccc([N+](=O)[O-])c2C(=O)[N-:21]1 10=20;20,21=21",
"O=C(CC[N+:21]1([H:20])CCOCC1)C(c1ccccc1)c1ccccc1.[O-]c1cc[n:10]c([O-])c1>>O=C(CC[N:21]1CCOCC1)C(c1ccccc1)c1ccccc1.[O-]c1cc[n+:10]([H:20])c([O-])c1 10=20;20,21=21",
"C[N+:21](c1ccccc1)(C1CCCCC1)[H:20].C[NH:10]CCc1ccc(O)cc1>>C[N:21](c1ccccc1)C1CCCCC1.C[NH+:10](CCc1ccc(O)cc1)[H:20] 10=20;20,21=21",
"Cc1o[n+:21]([H:20])c(C)c1C.[NH3+]CCCC(=O)[O-:10]>>Cc1o[n:21]c(C)c1C.[NH3+]CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"NC(=O)c1cc(-c2ccccc2)nnc1[N-:10]CCN1CCOCC1.Nc1ccccc1B(O)[O:21][H:20]>>NC(=O)c1cc(-c2ccccc2)nnc1[N:10](CCN1CCOCC1)[H:20].Nc1ccccc1B(O)[O-:21] 10=20;20,21=21",
"COc1ccc([N-:10]C=S)cc1.O=S(=O)(C(F)(F)F)[NH:21][H:20]>>COc1ccc([N:10](C=S)[H:20])cc1.O=S(=O)(C(F)(F)F)[NH-:21] 10=20;20,21=21",
"C=CC[NH2+]CCC[NH:10]CC=C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C=CC[NH2+]CCC[NH+:10](CC=C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"Cc1cc(Cn2c(C)cc(C)[n+:21]2[H:20])n[nH]1.Cc1ccc([O-:10])c(CN(C)C)c1>>Cc1cc(Cn2c(C)cc(C)[n:21]2)n[nH]1.Cc1ccc([O:10][H:20])c(CN(C)C)c1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CCC[NH2:10])cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CCC[NH2+:10][H:20])cc1 10=20;20,21=21",
"N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.NC1CC[NH:10]CC1>>N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.NC1CC[NH+:10]([H:20])CC1 10=20;20,21=21",
"COCCSC(C)[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1)[H:20]>>COCCSC(C)[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].O=[PH]([O-])C(NCc1ccccn1)c1ccccc1[O-:10]>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].O=[PH]([O-])C(NCc1ccccn1)c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CN(C)C(=O)C[S-:10].COc1ccc(S(=O)(=O)CC[N+:21]2([H:20])CCOCC2)c(OC)c1OC>>CN(C)C(=O)C[S:10][H:20].COc1ccc(S(=O)(=O)CC[N:21]2CCOCC2)c(OC)c1OC 10=20;20,21=21",
"COC(=O)c1ccc2c(ccc[n+:21]2[H:20])c1.OCCCCCc1cc[n:10]cc1>>COC(=O)c1ccc2c(ccc[n:21]2)c1.OCCCCCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"O=C([O-])C1CCCN1C(=O)C[NH2+:21][H:20].O=C1Nc2ccc([NH2:10])cc2N1>>O=C([O-])C1CCCN1C(=O)C[NH2:21].O=C1Nc2ccc([NH2+:10][H:20])cc2N1 10=20;20,21=21",
"CCCC[NH:10]CC(=O)[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCC[NH+:10](CC(=O)[O-])[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
